US07141562B2
To a solution of 8-bromo-4H-benzo[1,4]oxazin-3-one (343 mg, 1.5 mmol) in 10 ml anhydrous dimethylformanide was added sodium hydride (120 mg of a 60% suspension in mineral oil, 3.0 mmol) portionwise at 0° C. The solution was stirred with a magnetic stirrer at 0° C. for 20 minutes, at which time the initial gas evolution ended. Benzyl bromide (0.22 ml, 1.8 mmol) was added in one portion and the reaction mixture was stirred at 0° C. for 30 minutes. The solution was allowed to warm to room temperature and the reaction mixture was partitioned between water (50 ml) and ethyl acetate (50 ml). The aqueous layer was extracted with ethyl acetate (2×25 ml) and the combined organic fractions were washed with water (2×25 ml) and brine (2×25 ml). After drying over MgSO4, the organic fraction was concentrated in vacuo and resulting brown residue was purified by flash chromatography (5%–15% Ethyl acetate/Hexane in 30 minutes) to give 402 mg of 4-benzyl-8-bromo-4H-benzo[1,4]oxazin-3-one as a yellow solid (84%). MS: 318 (M+H)+.

reactant | 8-bromo-4H-benzo[1,4]oxazin-3-one | 1.5 mmol, 343 mg | BrC1=CC=CC=2NC(COC21)=O | C8H6BrNO2
reactant | sodium hydride | [H-].[Na+]
reactant | Benzyl bromide | 1.8 mmol, 0.22 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-benzyl-8-bromo-4H-benzo[1,4]oxazin-3-one | 402 mg, 84% | C(C1=CC=CC=C1)N1C(COC2=C1C=CC=C2Br)=O | C15H12BrNO2
